US04677129
(a) 1-(4-aminophenyl)-3-n-pentyl-3-azabicyclo[3.1.1]heptane-2,4-dione
In a manner analogous to that described in Example 1, 2.58 g of 1-(4-nitrophenyl)-3-n-pentyl-3-azabicyclo[3.1.1]heptane-2,4-dione in 75 ml of ethanol are hydrogenated in the presence of 0.15 g of palladium-on-carbon and worked up. Melting point 92°-94° (from ethyl acetate/petroleum ether).

reactant | 1-(4-nitrophenyl)-3-n-pentyl-3-azabicyclo[3.1.1]heptane-2,4-dione | 2.58 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCCCC)=O | C17H20N2O4
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.15 g | [Pd] | Pd
product | 1-(4-aminophenyl)-3-n-pentyl-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CCCCC)=O | C17H22N2O2
